US04599357
The starting material is prepared as follows: To the mixture of 3.0 g of indoline-2-carboxylic acid ethyl ester, 4.3 g of powdered potassium carbonate and 30 ml of methylene chloride is added 1.64 g of methacryloyl chloride in 5 ml of methylene chloride during 1 minute. After stirring at room temperature for 3 hours the mixture is partitioned between 50 ml of water and 100 ml of diethyl ether. The organic layer is washed with 30 ml of 1N hydrochloric acid and 25 ml of saturated sodium chloride, dried and evaporated, to yield the 1-methacryloylindoline-2-carboxylic acid ethyl ester as an oil.

reactant | indoline-2-carboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C1NC2=CC=CC=C2C1 | C11H13NO2
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methacryloyl chloride | 1.64 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-methacryloylindoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(=C)C)=O | C15H17NO3
